US04640915
A mixture of 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylate (0.4357 g), platinum (IV) oxide monohydrate (0.2179 g) in 0.047M aqueous dipotassium hydrogen phosphate (41.1 ml), tetrahydrofuran (52.3 ml) and ethanol (4.40 ml) was stirred for 3.7 hours in hydrogen gas under atmospheric pressure at ambient temperature. After the catalyst was filtered off, the filtrate was concentrated to half of the original volume. The aqueous concentrate was washed with diethyl ether (x3) and evaporated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion CHP-20P" (Trademark, manufactured by Mitsubishi Chemical Industries) (220 ml) eluting with water (1.50 l), 5% aqueous isopropyl alcohol (400 ml) and 10% aqueous isopropyl alcohol (400 ml). The fractions, whose IV spectra showed λ max 233.0 nm and 282.5 nm, were combined and lyophilized to give crude product (0.1459 g), which was chromatographed again on "Diaion CHP-20P" (130 ml) eluting with water (340 ml), 5% aqueous isopropyl alcohol (360 ml) and 10 aqueous isopropyl alcohol (200 ml). The fractions containing the desired compound were collected and lyophilized to give potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.1299 g) as a yellow powder.

reactant | 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-1-aza-bicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.4357 g | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC=1C=CC=2N(N1)N=NN2 | C29H24N8O10S
reactant | dipotassium hydrogen phosphate | 0.047M, 41.1 ml | P(=O)(O)([O-])[O-].[K+].[K+]
solvent | tetrahydrofuran | 52.3 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4.40 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | platinum (IV) oxide monohydrate | 0.2179 g | O.[Pt](=O)=O
product | potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(tetrazolo[1,5-b]pyridazin-6-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.1299 g | OC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC=1C=CC=2N(N1)N=NN2.[K+] | InChI=1S/C14H14N6O4S.K/c1-14(2,24)10-6-5-7(11(13(22)23)19(6)12(10)21)25-9-4-3-8-15-17-18-20(8)16-9;/h3-4,6,10,24H,5H2,1-2H3,(H,22,23);/q;+1/p-1/t6-,10+;/m1./s1
